* D:\Disco HDD\Documentos\Facultad\ITBA\4° año\2° cuatri\22.01 - Teoría de Circuitos\Cursada\Trabajos Prácticos\TC-Grupo6\TP2\Ejercicio3-CircuitoIntegradoresyDerivadores\Simulaciones\Derivador.asc
R1 N002 N001 5k27
C1 N001 N003 18.8n
V1 Vcc 0 9
V2 0 Vee 9
V3 N003 0 PULSE(-500m 500mv 1p 0.5ms 0.5ms 0 0.1ms)
XU1 0 N001 Vcc Vee N002 LM833
.tran 10ms startup
.lib Germosub/LM833.lib
.backanno
.end
